US07256198B2
Step 1: (S)-2-Phenoxymethyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of phenol (1.715 g, 18.22 mmol, 1.2 eq) in THF (100 mL) was slowly added sodium hydride (0.915 g, 22.87 mmol, 1.5 eq) and the reaction was stirred at rt 1 hour. (S)-2-(Toluene-4-sulfonyloxymethyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (6.077 g, 15.14 mmol, 1 eq) (J. Org. Chem, 62, 7679, 1997) in THF (50 mL) and DMF (50 mL) were added and the mixture was heated at reflux overnight. After cooling, it was poured into brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate and concentrated. The crude residue purified by column chromatography using ethyl acetate/hexanes (15/85) as an eluent to give the title compound as a colorless oil (3.371 g, 74%). NMR (400 Mz, DMSO-d6): consistent

reactant | phenol | 18.22 mmol, 1.715 g, 1.2 eq | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 22.87 mmol, 0.915 g, 1.5 eq | [H-].[Na+]
reactant | (S)-2-(Toluene-4-sulfonyloxymethyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 15.14 mmol, 6.077 g, 1 eq | C(C)(C)(C)OC(=O)N1[C@@H](CC2=CC=CC=C12)COS(=O)(=O)C1=CC=C(C=C1)C | C21H25NO5S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (S)-2-Phenoxymethyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 3.371 g, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CC2=CC=CC=C12)COC1=CC=CC=C1 | C20H23NO3
